US08012976B2
8-(4-Fluorophenyl)-9-(1-methyl-1H-1,2,3-triazol-4-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
A mixture of ethyl 2-(4-fluorophenyl)-3-(1-methyl-1H-1,2,3-triazol-4-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (113 mg, 0.28 mmol) in 85% hydrazine monohydrate (4 mL) stirred for 3 hr at room temperature. The mixture was filtered and washed with water, petroleum ether and ethyl acetate to give the crude product, which was purified by prep-HPLC to give the title compound (41 mg, yield 39%). 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 3.93 (s, 3H), 4.50-4.52 (d, J=7.6 Hz, 1H), 4.96-4.98 (d, J=7.6 Hz, 1H), 7.09-7.15 (m, 3H), 7.35-7.42 (m, 4H), 7.55-7.57 (t, J=7.6 Hz, 1H), 7.72 (s, 1H); LC-MS (ESI) m/z: 363 (M+1)+.

reactant | ethyl 2-(4-fluorophenyl)-3-(1-methyl-1H-1,2,3-triazol-4-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.28 mmol, 113 mg | FC1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C=1N=NN(C1)C)=O)C(=O)OCC | C21H19FN4O3
reactant | hydrazine monohydrate | 4 mL | O.NN
product | 8-(4-Fluorophenyl)-9-(1-methyl-1H-1,2,3-triazol-4-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 41 mg, yield 39% | FC1=CC=C(C=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C=1N=NN(C1)C | C19H15FN6O
